US08536092B2
5-(3,5-Bistrifluoromethylpyrazol-1-ylmethyl)-2-(3-chloropyridin-2-yl)-2H-pyrazole-3-carboxylic acid
A solution of 610 mg (1.34 mmol) of methyl 5-(3,5-bistrifluoromethylpyrazol-1-ylmethyl)-2-(3-chloropyridin-2-yl)-2H-pyrazole-3-carboxylate in 9 ml of ethanol is admixed dropwise with a solution of 699 mg (1.78 mmol) of sodium hydroxide in 7 ml of water. The mixture is stirred at room temperature for 2 hours and concentrated to about 5 ml on a rotary evaporator. This residue is admixed with 5 ml of tert-butyl methyl ether and the organic phase is subsequently washed with water. The combined aqueous phases are adjusted to a pH of about 3 with concentrated hydrochloric acid, with ice cooling, and are extracted with three times 50 ml of ethyl acetate. The combined organic phases are dried over magnesium sulphate and then the solvent is removed on a rotary evaporator.

reactant | methyl 5-(3,5-bistrifluoromethylpyrazol-1-ylmethyl)-2-(3-chloropyridin-2-yl)-2H-pyrazole-3-carboxylate | 1.34 mmol, 610 mg | FC(C1=NN(C(=C1)C(F)(F)F)CC=1C=C(N(N1)C1=NC=CC=C1Cl)C(=O)OC)(F)F | C16H10ClF6N5O2
reactant | sodium hydroxide | 1.78 mmol, 699 mg | [OH-].[Na+]
solvent | ethanol | 9 ml | C(C)O | C2H6O
solvent | water | 7 ml | O | H2O
product | 5-(3,5-Bistrifluoromethylpyrazol-1-ylmethyl)-2-(3-chloropyridin-2-yl)-2H-pyrazole-3-carboxylic acid | FC(C1=NN(C(=C1)C(F)(F)F)CC=1C=C(N(N1)C1=NC=CC=C1Cl)C(=O)O)(F)F | C15H8ClF6N5O2
